US07041689B2
Sodium hydride (55% in oil, 0.31 g) was added to a stirred solution of 4-bromo-1H imidazole (1.02 g) in dry tetrahydrofuran (20 mL) at room temperature under N2. After 10 minutes, dimethylsulfamoyl chloride (0.81 mL) was added. After stirring for 5 hours, the mixture was diluted with saturated aqueous ammonium chloride (20 mL) and extracted with ethyl acetate (20 mL). The extract was dried over Na2SO4, filtered and concentrated. The white solid was rinsed with diethyl ether and dried to give 1-(dimethylaminosulfonyl)-4-bromoimidazole (1.53 g, 87%). MS (ES+) 256, 254 ([MH]+).

reactant | Sodium hydride | 0.31 g | [H-].[Na+]
reactant | 4-bromo-1H imidazole | 1.02 g | BrC=1N=CNC1 | C3H3BrN2
reactant | dimethylsulfamoyl chloride | 0.81 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
product | 1-(dimethylaminosulfonyl)-4-bromoimidazole | 1.53 g, 87% | CN(S(=O)(=O)N1C=NC(=C1)Br)C | C5H8BrN3O2S
